US06972294B1
3-{4-[3,3-Bis-(4-bromo-phenyl)-allyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester
Reaction of 3,3-bis-(4-bromophenyl)-prop-2-en-1-ol (0.50 g, 1.36 mmol), triphenylphosphine (0.39 g, 1.50 mmol), 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (0.39 g, 1.63 mmol) and diethy lazodicarboxylate (0.26 g, 1.51 mmol) in an identical manner to example 1 gave the title compound (450 mg, 56%).

reactant | 3,3-bis-(4-bromophenyl)-prop-2-en-1-ol | 1.36 mmol, 0.50 g | BrC1=CC=C(C=C1)C(=CCO)C1=CC=C(C=C1)Br | C15H12Br2O
reactant | triphenylphosphine | 1.50 mmol, 0.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 1.63 mmol, 0.39 g | C(C)OC(C(CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | diethy lazodicarboxylate | 1.51 mmol, 0.26 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
product | 3-{4-[3,3-Bis-(4-bromo-phenyl)-allyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester | 450 mg, 56% | C(C)OC(C(CC1=CC=C(C=C1)OCC=C(C1=CC=C(C=C1)Br)C1=CC=C(C=C1)Br)OCC)=O | C28H28Br2O4
